US05089495
A mixture of phenylalanine (40 g), formaldehyde (37% w/v in water, 91 ml) and concentrated hydrochloric acid (310 ml) was stirred and heated to reflux for 4 hours and then stored at ambient temperature for 16 hours. The precipitate was filtered off, washed with cold water and with acetone to give 1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid (11 g).

reactant | phenylalanine | 40 g | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
reactant | formaldehyde | 91 ml | C=O | CH2O
solvent | hydrochloric acid | 310 ml | Cl | ClH
product | 1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid | 11 g | C1NC(CC2=CC=CC=C12)C(=O)O | C10H11NO2
